US05227381
5.66 Grams of cyclohexylmethylamine is dissolved in 200 ml of diethyl ether. Thereto is added 5.06 g of triethylamine. To the resulting mixture is dropwise added, with ice cooling, a solution of 5.65 g of chloroacetyl chloride dissolved in 150 ml of diethyl ether. The mixture is stirred for 1 hour at room temperature and then acidified with 5% hydrochloric acid. The mixture is extracted with diethyl ether. The extract is washed with water and dried with anhydrous magnesium sulfate. The solvent is removed by evaporation and the residue is recrystallized from n-hexane to obtain 6.7 g of N-cyclohexylmethyl-N-(α-chloroacetyl)amine.

reactant | cyclohexylmethylamine | C1(CCCCC1)CN | C7H15N
reactant | triethylamine | 5.06 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 5.65 g | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | N-cyclohexylmethyl-N-(α-chloroacetyl)amine | 6.7 g | C1(CCCCC1)CNC(CCl)=O | C9H16ClNO
